US03993684
Methacrylic acid (86 g.), 1,2-epoxybutane (36 g.), and a 40% solution of benzyltrimethylammoniummethoxide in methanol (21 g.) were charged to a round bottom flask and stirred at room temperature for 98 hours. 300 ml. of a 7% sodium hydroxide solution and 200 ml. of ethyl acetate were added to the mixture, the organic layer separated, and the basic aqueous layer given a second wash with 200 ml. of ethyl acetate. The organic fractions were then combined, and washed successively with 300 ml. of 7% sodium hydroxide and three 200 ml. portions of water, the spent wash solutions being decanted between washings. Excess moisture was removed from the washed organic phase with sodium sulfate and the ethyl acetate was stripped off to yield hydroxybutyl methacrylate (41 g.). This product was taken up in 60 ml. of benzene and pyridine (22 g.). Cinnamoyl chloride (50.4 g.) in 75 ml. of benzene was added dropwise with stirring to the hydroxybutyl methacrylate solution and the resulting mixture allowed to react for a period of 24 hours. After the reaction was complete pyridine hydrochloride formed by the reaction was filtered off, the filtrate washed and the product cinnamoylated hydroxybutyl methacrylate recovered in the manner described in Example 8.

reactant | Methacrylic acid | 86 g | C(C(=C)C)(=O)O | C4H6O2
reactant | 1,2-epoxybutane | 36 g | O1CC1CC | C4H8O
reactant | benzyltrimethylammoniummethoxide | C[O-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 21 g | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | hydroxybutyl methacrylate | 41 g | C(C(=C)C)(=O)OCCCCO | C8H14O3
